US06096688
Phosphorus oxychloride (16.3 ml, 0.178 mol) is added to a stirred solution of N-(3.3-dimethyl-2-oxo-butyl) oxalamic acid ethyl ester (38.4 g, 0.178 mol) in toluene (p150 ml). The mixture is heated gradually to reflux, and then refluxed for 16 h. After cooling, the mixture is added portionwise to water (500 ml) and stirred vigorously. The organic phase is separated and washed thoroughly with saturated sodium hydrogen carbonate solution (500 ml) and then twice with water (500 ml). The organic phase is then dried over sodium sulfate and evaporated in vacuo. The residue is purified by flash column chromatography (silica gel, petroleum ether/ethyl acetate 7:3 v/v) to give 5-tert-butyl-oxazole-2-carboxylic acid ethyl ester (20.23 g, 58%) as an oil.

reactant | Phosphorus oxychloride | 0.178 mol, 16.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(3.3-dimethyl-2-oxo-butyl) oxalamic acid ethyl ester | 0.178 mol, 38.4 g | C(C)OC(C(=O)NCC(C(C)(C)C)=O)=O | C10H17NO4
reactant | water | 500 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-tert-butyl-oxazole-2-carboxylic acid ethyl ester | 20.23 g, 58% | C(C)OC(=O)C=1OC(=CN1)C(C)(C)C | C10H15NO3
